US05747621
(a) Preparation of 2-phenyl-indan-2-ol
A suspension of anhydrous cerium chloride (40.60 g, 164.7 mmol) in THF (270 mL) was stirred at room temperature for 2 hours under nitrogen. Phenylmagnesium bromide (46.5 mL of 3.0M solution in diethyl ether, 139.5 mmol) was added at 0° C. and stirred for 3.5 h. A solution of 2-indanone (14.21 g, 107.7 mmol) in THF (20 mL) was added at the same temperature. After stirring at 0° C. for 3 hours, the mixture was allowed to warm to room temperature and kept at ambient temperature for 12 h. It was then treated with 5% aqueous hydrochloric solution. The solution was extracted with diethyl ether (4*200 mL). All etheral layers were combined, washed with water (100 mL), dried over anhydrous magnesium sulphate and concentrated to give the crude product. Kugelrohr distillation (150° C./0.25 mm Hg yielded 18.58 g (82%) of 2-phenyl-2-indanol in solid form (mp 54°C.). 1H-N.M.R. (CDCl3) d 2.24 (br s, 1H), d 3.20 (d, J=16.2 Hz, 2H), d 3.43 (d, J=16.2 Hz, 2H), d 7.18-7.40 (m, 7H), d 7.51(br d, J=7.1 Hz, 2H)

reactant | cerium chloride | 164.7 mmol, 40.60 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | Phenylmagnesium bromide | 139.5 mmol, 3.0M, 46.5 mL | C1(=CC=CC=C1)[Mg]Br
reactant | 2-indanone | 107.7 mmol, 14.21 g | C1C(CC2=CC=CC=C12)=O | C9H8O
solvent | THF | 270 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-phenyl-indan-2-ol | C1(=CC=CC=C1)C1(CC2=CC=CC=C2C1)O | C15H14O
